US07504420B2
Tert-butyl 3-hydroxy-4-(3-methoxybenzylamino)-1-phenylbutan-2-ylcarbamate was obtained in a single step by the ring opening reaction of tert-butyl-(1-oxiranyl-2-phenylethyl)-carbamate with 3-methoxybenzylamine under reflux condition in 2-propanol. Deprotection of Boc group by treatment of TFA in CH2Cl2 or methanolic HCl provided 3-amino-1-(3-methoxybenzylamino)-4-phenylbutan-2-ol, which was directly exposed to peptide coupling reaction with 3-(N-methylmethylsulfonamido)-5-(1-phenylethylcarbamoyl)benzoic acid in presence of N-ethyl-N′-(dimethylaminopropyl)carbodiimde hydrochloride (EDC), 1-hydroxybenzotriazole hydrate and diisopropylethylamine in a mixture of DMF and CH2Cl2 to afford N1-(3-hydroxy-4-(3-methoxybenzylamino)-1-phenylbutan-2-yl)-5-(N-methylmethylsulfonamido)-N3-(1-phenylethyl)isophthalamide.

reactant | 3-(N-methylmethylsulfonamido)-5-(1-phenylethylcarbamoyl)benzoic acid | CN(S(=O)(=O)C)C=1C=C(C(=O)O)C=C(C1)C(NC(C)C1=CC=CC=C1)=O | C18H20N2O5S
reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N1-(3-hydroxy-4-(3-methoxybenzylamino)-1-phenylbutan-2-yl)-5-(N-methylmethylsulfonamido)-N3-(1-phenylethyl)isophthalamide | OC(C(CC1=CC=CC=C1)NC(C1=CC(C(=O)NC(C)C2=CC=CC=C2)=CC(=C1)N(S(=O)(=O)C)C)=O)CNCC1=CC(=CC=C1)OC | C36H42N4O6S
